US04985426
Synthesis of dl-5-chloro-6-ethyl-4-[α-ethyl-4-(2,2-diethoxyethoxy)benzyl]aminopyrimidine (Compound No. 123)
To a solution of 5.0 g of dl-5-chloro-6-ethyl-4-(α-ethyl-4-hydroxybenzyl)aminopyrimidine sodium salt dissolved in 50 ml of N,N-dimethylformamide was added 4.8 g of bromoacetaldehyde diethylacetal, and the mixture was stirred at 80° C. for 8 hours. After completion of the reaction, the reaction mixture was charged into water and the separated oily product was extracted with ethyl acetate. The extract was washed with water, dried with anhydrous sodium sulfate, and then ethyl acetate was distilled off under reduced pressure. The oily product obtained was isolated by column chromatography (Wako Gel C-200, trade name, eluted with toluene:ethyl acetate=7:1) to give 2.3 g of the desired product as pale yellow liquid.

reactant | dl-5 chloro-6-ethyl-4-(α-ethyl-4-hydroxybenzyl)aminopyrimidine sodium salt | 5.0 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.[Na].ClC1=NC(=CC(=N1)NC(C1=CC=C(C=C1)O)CC)CC
reactant | bromoacetaldehyde diethylacetal | 4.8 g | C(C)OC(CBr)OCC | C6H13BrO2
reactant | water | O | H2O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | dl-5 chloro-6-ethyl-4-[α-ethyl-4-(2,2-diethoxyethoxy)benzyl]aminopyrimidine | 2.3 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.ClC1=NC(=CC(=N1)NC(C1=CC=C(C=C1)OCC(OCC)OCC)CC)CC | InChI=1S/C21H30ClN3O3.C18H34N4O2/c1-5-16-13-19(25-21(22)23-16)24-18(6-2)15-9-11-17(12-10-15)28-14-20(26-7-3)27-8-4;1-24-18-14-16(6-7-17(18)23)15-22-13-5-12-21-10-3-2-9-20-11-4-8-19/h9-13,18,20H,5-8,14H2,1-4H3,(H,23,24,25);6-7,14,20-23H,2-5,8-13,15,19H2,1H3
